US05840732
ii) Synthesis of 5-ethylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 0.48 g (1.38 mmol) of 5-ethylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 50 ml of methanol, 0.25 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 0.54 g (100%, yellow oily substance) of the desired product.

reactant | 5-ethylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 1.38 mmol, 0.48 g | C(C)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C16H17N3O2S2
reactant | hydrochloric acid | 0.25 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 5-ethylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(C)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C16H17N3O2S2.ClH/c1-2-12-15(20)19(16(21)23-12)9-3-4-11-22-14-7-5-6-13-17-8-10-18(13)14;/h2,5-8,10H,3-4,9,11H2,1H3;1H
